US07138533B2
6-Bromo-1-(1H-indol-3-yl)-1-hexanone
Using indole (5.00 g) and 6-bromohexanoyl chloride (9.95 ml) according to the same method as that of Reference Example 1, the title compound (9.65 g) was obtained as colorless crystals having a melting point of 150 to 151° C.

reactant | indole | 5.00 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 6-bromohexanoyl chloride | 9.95 ml | BrCCCCCC(=O)Cl | C6H10BrClO
product | 6-Bromo-1-(1H-indol-3-yl)-1-hexanone | 9.65 g | BrCCCCCC(=O)C1=CNC2=CC=CC=C12 | C14H16BrNO
